US06518257B1
(ii) Production of 5-[4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl]-N-methyl-2-thiophenecarboxamide
By the reaction in the same manner as in Example 4-(iii) using 5-[4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl]-N-methyl-2-thiophenecarboxamide (1.39 g) and pyridine hydrochloride (484 mg), the colorless amorphous title compound (769 mg) was obtained.

reactant | 5-[4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl]-N-methyl-2-thiophenecarboxamide | 1.39 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(S1)C(=O)NC | C38H35N3O2S
reactant | pyridine hydrochloride | 484 mg | Cl.N1=CC=CC=C1
product | 5-[4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl]-N-methyl-2-thiophenecarboxamide | 769 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC=C(S1)C(=O)NC | C19H21N3O2S
